US04950677
450 mg of intramolecularly deprotonized 2-[[(2-ethoxy-2-methylpropyl)thio]methyl]-4-methoxy-3-methyl-1-[5-(trifluoromethyl)-2-benzimidazolyl]pyridinium cation were dissolved in methylene chloride, whereupon 2 ml of 4.7N methanolic hydrochloric acid were added thereto, the solution was concentrated and the residue was crystallized from ether. The 2-[[(2-ethoxy-2-methylpropyl)thio]methyl]-4-methoxy-3-methyl-1-[5-(trifluoromethyl)-2-benzimidazolyl]pyridinium chloride obtained exhibited a melting point of 119°-120°.

reactant | 2-[[(2-ethoxy-2-methylpropyl)thio]methyl]-4-methoxy-3-methyl-1-[5-(trifluoromethyl)-2-benzimidazolyl]pyridinium | C(C)OC(CSCC1=[N+](C=CC(=C1C)OC)C=1NC2=C(N1)C=CC(=C2)C(F)(F)F)(C)C
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | hydrochloric acid | 4.7N, 2 ml | Cl | ClH
product | 2-[[(2-ethoxy-2-methylpropyl)thio]methyl]-4-methoxy-3-methyl-1-[5-(trifluoromethyl)-2-benzimidazolyl]pyridinium chloride | [Cl-].C(C)OC(CSCC1=[N+](C=CC(=C1C)OC)C=1NC2=C(N1)C=CC(=C2)C(F)(F)F)(C)C | InChI=1S/C22H27F3N3O2S.ClH/c1-6-30-21(3,4)13-31-12-18-14(2)19(29-5)9-10-28(18)20-26-16-8-7-15(22(23,24)25)11-17(16)27-20;/h7-11H,6,12-13H2,1-5H3,(H,26,27);1H/q+1;/p-1
